US07112611B2
Stage 3.2: (4-[1,2,3]-Triazol-2-yl-benzylamino)acetic acid methyl ester
To a solution of 60 g (347 mmol) of 4-[1,2,3]-triazol-2-yl-benzaldehyde in 1000 ml of CH2Cl2, 78.9 g (629 mmol) of glycine methylester hydrochloride, 104.2 ml (749 mmol) of triethylamine and 150 g of MgSO4 are successively added at 0–5° C. The mixture is stirred at r.t. for 18 h and filtered through celite. The filtrate is concentrated under reduced pressure and the residue is diluted with AcOEt. Et3N hydrochloride is filtered off and the filtrate is concentrated under reduced pressure in an azeotropic manner using toluene to give the crude imine. To a solution of the crude imine in 600 ml of THF and 600 ml of MeOH, 20 g (526 mmol) of NaBH4 is added portionwise at −20˜−10° C. and the mixture is stirred for 1 h. The reaction mixture is slowly quenched with sat. aqueous NH4Cl and then extracted with CH2Cl2. The combined extracts are washed with H2O, brine, dried over MgSO4 and concentrated under reduced pressure. The residue is purified by CC on silica gel (n-Hexane:AcOEt=2:1˜1:1) to provide the title compound.

reactant | 4-[1,2,3]-triazol-2-yl-benzaldehyde | 347 mmol, 60 g | N=1N(N=CC1)C1=CC=C(C=O)C=C1 | C9H7N3O
reactant | glycine methylester hydrochloride | 629 mmol, 78.9 g | Cl.COC(CN)=O
reactant | triethylamine | 749 mmol, 104.2 ml | C(C)N(CC)CC | C6H15N
reactant | MgSO4 | 150 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | NaBH4 | 526 mmol, 20 g | [BH4-].[Na+]
solvent | CH2Cl2 | 1000 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 600 ml | C1CCOC1 | C4H8O
solvent | MeOH | 600 ml | CO | CH4O
product | (4-[1,2,3]-Triazol-2-yl-benzylamino)acetic acid methyl ester | COC(CNCC1=CC=C(C=C1)N1N=CC=N1)=O | C12H14N4O2
